US07777047B2
7-(methyl{[2-(trifluoromethyl)phenyl]sulfonyl}amino)-1H-indole-2-carboxamide
To a mixture of 7-(methyl{[2-(trifluoromethyl)phenyl]sulfonyl}amino)-1H-indole-2-carboxylic acid (2.65 g), 1H-1,2,3-benzotriazol-1-ol-ammonia complex (1.3 g) and N,N-dimethylformamide (30 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (1.7 g) under ice-cooling, and the mixture was stirred from under ice-cooling to room temperature for 18 hr. The reaction solution was diluted with ethyl acetate, washed with water, aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained colorless crystals were washed with ethyl acetate-hexane to give the title compound (2.6 g, yield 98%) as colorless crystals. MS: 398 (MH+). melting point 223-224° C.

reactant | 7-(methyl{[2-(trifluoromethyl)phenyl]sulfonyl}amino)-1H-indole-2-carboxylic acid | 2.65 g | CN(C=1C=CC=C2C=C(NC12)C(=O)O)S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F | C17H13F3N2O4S
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 1.7 g | Cl.CN(CCCN=C=NCC)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(methyl{[2-(trifluoromethyl)phenyl]sulfonyl}amino)-1H-indole-2-carboxamide | 2.6 g, yield 98% | CN(C=1C=CC=C2C=C(NC12)C(=O)N)S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F | C17H14F3N3O3S
